US07115751B2
15 ml of acetone was poured into a 200 ml three-neck flask, and 1.35 g of 5-fluoroindole was dissolved therein. On the other hand, preparation of an oxidant solution was performed by dissolving 33.6 g of cupric chloride anhydrate and 13.5 g of water in 55 ml of acetone and then agitating the resultant mixture for 5 minutes. Then the prepared oxidant solution was dripped into the 5-fluoroindole solution over 2 hours, and the resultant mixture was agitated for 5 hours at the temperature of 40° C. Color of the reaction solution changed from white to dark blue with slight heat generation. pH of the reaction solution was less than 1. After the end of the reaction, the reaction solution was suction-filtered with a Perforated funnel, and the filtrate was washed with acetone and then methanol, and was dried to obtain 0.86 g of 2,9,14-trifluoro-6,11-dihydro-5H-diindolo [2,3-a:2′,3′-c] carbazole (5-fluoroindole trimer) (yield: 64%). The resultant trimer was pressure-molded with a tablet molding machine and the mold was cut into a piece with the diameter of 10 mm and thickness of 1 mm. A conductivity thereof was measured by the four terminal method and to be 0.88 S/cm. The result of elemental analysis was: <C8.00H3.95N1.10Cl0.10>3.

reactant | 5-fluoroindole | 1.35 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | water | 13.5 g | O | H2O
solvent | acetone | 55 ml | CC(=O)C | C3H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 2,9,14-trifluoro-6,11-dihydro-5H-diindolo [2,3-a:2′,3′-c] carbazole | 0.86 g, yield: 64% | FC=1C=C2C3=C4C(=C5C(=C3NC2=CC1)NC=1C=CC(=CC15)F)NC=1C=CC(=CC14)F | C24H12F3N3
